US07655666B2
A mixture of 2-amino-4-trifluoromethyl-benzoic acid methyl ester (51.5 g, 235 mmol), iodine (55.1 g, 217 mmol) and silver sulfate (73.3 g, 234 mmol) in EtOH (1560 mL) was stirred for 1 h at r.t. under nitrogen. The suspension was then filtered and the filtrate diluted with EtOAc and washed once with a 10% aqueous sodium thiosulfate solution. The organic layer was dried over anhydrous sodium sulfate, filtered and concentrated in vacuo to give 2-amino-5-iodo-4-trifluoromethyl-benzoic acid methyl ester (67.5 g, 196 mmol, 83%) as a brown solid, m.p. 101-103° C., ESI-MS: m/z 346 [M+H]+.

reactant | 2-amino-4-trifluoromethyl-benzoic acid methyl ester | 235 mmol, 51.5 g | COC(C1=C(C=C(C=C1)C(F)(F)F)N)=O | C9H8F3NO2
reactant | iodine | 217 mmol, 55.1 g | II | I2
solvent | EtOH | 1560 mL | CCO | C2H6O
catalyst | silver sulfate | 234 mmol, 73.3 g | S(=O)(=O)([O-])[O-].[Ag+2]
product | 2-amino-5-iodo-4-trifluoromethyl-benzoic acid methyl ester | 196 mmol, 67.5 g, 83% | COC(C1=C(C=C(C(=C1)I)C(F)(F)F)N)=O | C9H7F3INO2
